US07919630B2
3-Allyl-5-isopropylidene-2-thiohydantoin
A flask equipped with a reflux condenser and nitrogen atmosphere was charged with acetone (20 mL), 3-allylthiohydantoin (2.0 g, 0.013 mol), and morpholine (1.1 g, 0.013 mol). The mixture was heated at reflux for 80 min and, after cooling, was diluted with 40 mL of ethyl acetate. The resulting solution was washed with 2×20 mL 1.2 M HCl, 20 mL of water, and 20 mL of saturated aqueous NaCl. The solution was then filtered through 1 PS paper and concentrated to dryness at aspirator pressure and then high vacuum. The off-white crystalline residue weighed 2.3 g (92%). No other components were detectable by HPLC at 215 nm. NMR (CDCl3) δ 9.9 (bs, 1H), 5.1-6.1 (m, 3H), 4.6 (d, 2H), 2.3 (s, 3H), 2.0 (s, 3H).

reactant | acetone | 20 mL | CC(=O)C | C3H6O
reactant | 3-allylthiohydantoin | 0.013 mol, 2.0 g | C(C=C)N1C(NCC1=O)=S | C6H8N2OS
reactant | morpholine | 0.013 mol, 1.1 g | N1CCOCC1 | C4H9NO
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | 3-Allyl-5-isopropylidene-2-thiohydantoin | C(C=C)N1C(NC(C1=O)=C(C)C)=S | C9H12N2OS
